US04970213
2.13 g of triethylamine are added to a suspension of 1.7 g of methoxylamine hydrochloride in 40 cm3 of trichloromethane. After stirring for 15 minutes at a temperature close to 20° C., 3.69 g of ethyl 2-(2-chloro-6,7-difluoroquinoline-3-carbonyl)-3-dimethylaminoacrylate are added to the solution obtained and the mixture is stirred for 4 hours and a half at about 20° C. The reaction mixture is concentrated to dryness under reduced pressure (20 kPa) at a temperature close to 50° C. The residue is taken up in 70 cm3 of ethanol and 3.6 g of triethylamine and the mixture is heated for 30 minutes at a temperature close to 75° C. After cooling to about 20° C., the precipitate obtained is drained and washed with 3 times 30 cm3 of ethanol. 2.67 g of 3-ethoxycarbonyl-7,8-difluoro-1-methoxy-4-oxo-1,4-dihydro-benzo [b][1,8]naphthyridine are obtained in the form of a pale yellow solid melting at 266°-268° C.

reactant | triethylamine | 2.13 g | C(C)N(CC)CC | C6H15N
reactant | methoxylamine hydrochloride | 1.7 g | Cl.O(C)N
reactant | ethyl 2-(2-chloro-6,7-difluoroquinoline-3-carbonyl)-3-dimethylaminoacrylate | 3.69 g | ClC1=NC2=CC(=C(C=C2C=C1C(=O)C(C(=O)OCC)=CN(C)C)F)F | C17H15ClF2N2O3
solvent | trichloromethane | 40 cm3 | ClC(Cl)Cl | CHCl3
product | 3-ethoxycarbonyl-7,8-difluoro-1-methoxy-4-oxo-1,4-dihydro-benzo [b][1,8]naphthyridine | 2.67 g | C(C)OC(=O)C=1C(C=2C=C3C(=NC2N(C1)OC)C=C(C(=C3)F)F)=O | C16H12F2N2O4
